US06143764
4-Methoxyphenyl 2-thienyl ketone
To commercially available nitromethane (10 ml) were added commercially available anisole (1.081 g), commercially available 2-thenoyl chloride (1.466 g) and commercially available ytterbium(III) trifluoromethanesulfonate (620 mg), and the admixture was stirred at 60° C. for 8 hours. The reaction mixture was treated in the same manner as described in Example 35 to obtain 965 mg of the title compound (yield: 44%).

reactant | anisole | 1.081 g | C1(=CC=CC=C1)OC | C7H8O
reactant | 2-thenoyl chloride | 1.466 g | C1(=CC=CS1)C(=O)Cl | C5H3ClOS
reactant | ytterbium(III) trifluoromethanesulfonate | 620 mg | FC(S(=O)(=O)[O-])(F)F.[Yb+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
solvent | nitromethane | 10 ml | [N+](=O)([O-])C | CH3NO2
product | 4-Methoxyphenyl 2-thienyl ketone | 965 mg, yield: 44% | S1C(=CC=C1)C(=O)C1=CC=C(C=C1)OC | C12H10O2S
